US06069256
A mixture of 2-nitromethylenethiazolidine (12.6 g) and acetonitrile (21.5 ml) was stirred and heated at 40° C. under argon. Methylamine (20.0 g of a 40% w/w aqueous solution) was added slowly over 30 minutes to the reaction mixture at 40° C. The mixture was cooled at ambient temperature and further methylamine (23.6 g of 40% w/w aqueous solution) was added over 2.5 hours and a solution of 4-chloromethyl-2-dimethylaminomethylthiazole dihydrochloride (25.0 g) in water (30 ml) was added over 5.5 hours with the addition of the thiazole starting simultaneously with the addition of the methylamine. The reaction mixture was left to stir for a further 15 minutes and then was concentrated under reduced pressure. The solid obtained was dissolved in methyl ethyl ketone (130 ml) and aqueous potassium carbonate solution (43 ml, 10% w/w). A further portion of methyl ethyl ketone and water (50 ml) was added to aid dissolution. The mixture was warmed slightly to obtain a solution. The mixture was separated and the aqueous layer was washed with methyl ethyl ketone (2×130 ml and then 1×50 ml). The combined organic layers were dried and evaporated under reduced pressure to yield crude nizatidine (approximately 25 g, 88% yield), which was shown to be 93.7% pure by HPLC. The crude solid was dissolved in dichloromethane (300 ml). The solution was washed with water (3×75 ml). The combined aqueous layer and the washings were back extracted with dichloromethane and the combined organic layers were concentrated under reduced pressure to give nizatidine (21.8 g, 76.8% yield) which was shown to be 98.3% pure by HPLC. The solid was dissolved in ethanol (45 ml) by warming on a steam bath. The solution was removed from the steam bath, treated with activated charcoal (2.3 g) and the mixture was boiled for a further 8 minutes. The mixture was hot filtered. The filtrate was cooled and filtered to give nizatidine (15.6 g, 55% yield) which was shown to be 99.7% pure by HPLC.

reactant | 2-nitromethylenethiazolidine | 12.6 g | [N+](=O)([O-])C=C1SCCN1 | C4H6N2O2S
reactant | Methylamine | CN | CH5N
reactant | methylamine | 23.6 g | CN | CH5N
reactant | 4-chloromethyl-2-dimethylaminomethylthiazole dihydrochloride | 25.0 g | Cl.Cl.ClCC=1N=C(SC1)CN(C)C
reactant | thiazole | S1C=NC=C1 | C3H3NS
reactant | potassium carbonate | 43 ml | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
solvent | methyl ethyl ketone | 130 ml | C(C)C(=O)C | C4H8O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | acetonitrile | 21.5 ml | C(C)#N | C2H3N
product | nizatidine | 21.8 g, 76.8% yield | CN/C(=C\[N+](=O)[O-])/NCCSCC1=CSC(=N1)CN(C)C | C12H21N5O2S2
